* C:\Users\thollis\Google Drive\Lithium Ion Pack\Op_Amp_Simulation.asc
R1 CSR+ CSR- 0.002
R3 N003 CSR- 5k
R4 N009 CSR+ 5k
R5 N009 1V65_Ref 165k
R9 3V3_Bus N001 10k
R10 N001 0 10k
V3 3V3_Bus 0 3.3v
XU3 N009 N003 3V3_Bus 0 Vcurrent level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
R2 Vcurrent N003 165k
XU1 N001 1V65_Ref 3V3_Bus 0 1V65_Ref level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
R6 3V3_Bus N002 13.8k
R7 N002 0 6k
XU2 N002 1V_Ref 3V3_Bus 0 1V_Ref level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
V1 V1 0 SINE(4.2 0.1 4k)
V4 V2 V1 SINE(4.2 0.1 3k)
V5 V3 V2 SINE(4.2 0.1 2k)
V6 CSR+ V3 SINE(4.2 0.1 1k)
R11 N006 V3 10k
R12 N012 CSR+ 10k
R13 N012 0 5k
XU4 N012 N006 3V3_Bus 0 V4-3 level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
R14 V4-3 N006 5k
XU5 N010 N004 3V3_Bus 0 V4-3_Scaled level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
R15 V4-3_Scaled N004 10k
R16 N004 1V_Ref 10k
R17 N010 V4-3 10k
R18 N010 0 10k
R19 N016 V2 10k
R20 N020 V3 10k
R21 N020 0 5k
XU6 N020 N016 3V3_Bus 0 V3-2 level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
R22 V3-2 N016 5k
XU7 N018 N014 3V3_Bus 0 V3-2_Scaled level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
R23 V3-2_Scaled N014 10k
R24 N014 1V_Ref 10k
R25 N018 V3-2 10k
R26 N018 0 10k
R27 N007 V1 10k
R28 N013 V2 10k
R29 N013 0 5k
XU8 N013 N007 3V3_Bus 0 V2-1 level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
R30 V2-1 N007 5k
XU9 N011 N005 3V3_Bus 0 V2-1_Scaled level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
R31 V2-1_Scaled N005 10k
R32 N005 1V_Ref 10k
R33 N011 V2-1 10k
R34 N011 0 10k
R35 N017 0 10k
R36 N021 V1 10k
R37 N021 0 5k
XU10 N021 N017 3V3_Bus 0 V1-GND level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
R38 V1-GND N017 5k
XU11 N019 N015 3V3_Bus 0 V1-GND_Scaled level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
R39 V1-GND_Scaled N015 10k
R40 N015 1V_Ref 10k
R41 N019 V1-GND 10k
R42 N019 0 10k
R43 CSR- 0 0.684
R44 N008 Vcurrent 10k
C2 N008 0 100n
I1 0 CSR- PULSE(0 25 5m 1n 1n 0.05m 0.1m 200)
.tran 50m
.lib UniversalOpamps2.sub
.backanno
.end
